US06194410B1
2.2 ml (34.5 mmol) of chloroacetonitrile were added to a suspension of 4.5 g (28.8 mmol) of toluene-2-sulphinic acid sodium salt in 100 ml of DMF and stirred at 1000 for 1 hr. The reaction solution was evaporated and the residue was partitioned between H2O and CH2Cl2. The aqueous phase was washed three times with CH2Cl2. The combined organic phases were washed once with H2O, dried (MgSO4). filtered and evaporated. Chromatography (SiO2, CH2Cl2) yielded 2.9 g (50%) of (toluene-2-sulphonyl)-acetonitrile as a colorless oil.

reactant | chloroacetonitrile | 34.5 mmol, 2.2 ml | ClCC#N | C2H2ClN
reactant | toluene-2-sulphinic acid sodium salt | 28.8 mmol, 4.5 g | [Na+].C=1(C(=CC=CC1)S(=O)[O-])C
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (toluene-2-sulphonyl)-acetonitrile | 2.9 g, 50% | C=1(C(=CC=CC1)S(=O)(=O)CC#N)C | C9H9NO2S
